US04224323
400 ml. of tetrahydrofuran is combined with 100 gm. crotonaldehyde and placed in an ice bath. 125 gm. of hydrogen chloride are passed in at a temperature of about 20°-30° C. 182 gm. of 5-chlorosalicylhydroxamic acid is added in one portion and the reaction temperature is allowed to rise to about 31° C. The mixture is stirred at room temperature for about two hours and then 273 gm. of 50% w/w sodium hydroxide diluted with water to 600 ml. is dripped in. The reaction temperature is maintained from about 30° C. to about 40° C. during the alkali addition. When the addition is completed the mixture is heated to about 50° C. in vacuo for approximately one-half hour in order to remove as much tetrahydrofuran as possible. A solid precipitates which is diluted with 600 ml. of water, cooled, filtered and washed with excess water and pulled dry. The crude cake is returned to the reactor and dissolved in 900 ml. of boiling isopropanol, the solution is filtered hot and the reactor rinsed with 100 ml. hot isopropanol. The filtrate is cooled overnight to crystallize. The crystals are filtered, washed with isopropanol and dried at about 100° C. 134 gm. of 7-chloro-2-methyl-3,3a-dihydro-2H,9H-isoxazolo (3,2-b) (1,3) benzoxazin-9-one (m.p. 147° C.-151° C.) for a yield of 57.6% is obtained.

reactant | crotonaldehyde | C(\C=C\C)=O | C4H6O
reactant | hydrogen chloride | Cl | ClH
reactant | 5-chlorosalicylhydroxamic acid | ClC1=CC=C(C(C(=O)NO)=C1)O | C7H6ClNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-chloro-2-methyl-3,3a-dihydro-2H,9H-isoxazolo (3,2-b) (1,3) benzoxazin-9-one | yield of 57.6% | ClC=1C=CC2=C(C(N3C(O2)CC(O3)C)=O)C1 | C11H10ClNO3
